US06355844B1
1,1,3-Trimethoxy-3-acetoxypropane
A mixture of 56.00 g trimethyl ortho formate, 60.00 g vinylacetate, 0.75 g PdCl2(ACN)2, 0.60 g 1,4-benzoquinone, and 1.00 ml BF3*OEt2 was stirred at 30° C., and low boiling impurities were removed from the reaction mixture through the application of a slight vacuum. A fractionation column was installed to prevent losses of starting materials and/or products. After 2.3 hours, the ratio of 1,1,3,3-tetramethoxypropane to 1-acetoxy-1,3,3-trimethoxypropane, and the isomeric 1,3-diacetoxy-1,3-dimethoxy-propanes was determined by CG-analysis to be 1.0:2.4:1.3 on the basis of the FID-area-percentages. In a comparative experiment, without removal of low boiling impurities, the referring ratio was determined to be 1.0:1.48:0.50. Both reaction mixtures still contained an excess of vinylacetate.

reactant | trimethyl ortho formate | 56.00 g | C(OC)(OC)OC | C4H10O3
reactant | vinylacetate | 60.00 g | C(=C)CC(=O)[O-]
reactant | 1,4-benzoquinone | 0.60 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | BF3 | 1.00 ml | B(F)(F)F | BF3
reactant | OEt2 | O(CC)CC | C4H10O
product | 1,1,3-Trimethoxy-3-acetoxypropane | COC(CC(OC(C)=O)OC)OC | C8H16O5
